US08461179B1
A solution of 1-(5-(7-((4-methoxybenzyl)(methyl)amino)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea (219 mg, 0.384 mmol) in TFA (2.0 mL) was stirred at RT for 1 h. The mixture was concentrated in vacuo, dissolved in EtOAc, washed with satd. NaHCO3 and brine, dried (Na2SO4), warmed to reflux in MeOH (5 mL) with the drying agent, filtered free of drying agent (while hot), concentrated in vacuo and treated with 4M HCl/dioxane (0.2 mL). The mixture was evaporated at reduced pressure and then triturated with Et2O. The solid was collected by filtration, purified by reverse phase chromatography (MeCN/water with 0.1% TFA) and concentrated in vacuo to give an aqueous residue. The aqueous solution was treated with satd. NaHCO3 and allowed to precipitate. The solid was collected by filtration, washed with water and dried in vacuo to give 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea (87 mg, 50% yield). 1H NMR (400 MHz, DMSO-d6), δ 9.01 (s, 1H), 8.52 (s, 1H), 8.42 (s, 1H), 8.12 (m, 1H), 7.81 (s, 1H), 7.42-7.24 (m, 5H), 7.05-6.94 (m, 2H), 6.23 (s, 1H), 4.13 (m, 2H), 2.85 (s, 3H), 1.20 (m, 3H); MS (ES-API) m/z: 450.1 [M+H]+.

reactant | 1-(5-(7-((4-methoxybenzyl)(methyl)amino)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea | 0.384 mmol, 219 mg | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)CC)=O)C=2C(=CC(=C(C2)NC(=O)NC2=CC=CC=C2)F)F)C)C=C1 | C32H29F2N5O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea | 87 mg, 50% yield | C(C)N1C(C(=CC2=CN=C(C=C12)NC)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)F)=O | C24H21F2N5O2
